US04727082
In 106 ml of dry benzene were dissolved 13.0 g of 2-(4-chlorobutoxy)-5-nitrobenzaldehyde, 7.28 g of ethyl propionylacetate, 0.20 ml of piperidine and 0.62 ml of acetic acid, and the solution was refluxed for 9 hours while removing water using a Dean-Stark trap. After cooling the reaction solution, 6.52 g of ethyl 3-aminocrotonate was added to the solution, and the mixture was refluxed under heating for 11 hours. After cooling the mixture, precipitated crude crystals were collected by filtration, and recrystallized from methanol to give 13.13 g of diethyl 2-ethyl-4-[2-(4-chlorobutoxy)-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | 2-(4-chlorobutoxy)-5-nitrobenzaldehyde | 13.0 g | ClCCCCOC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C11H12ClNO4
reactant | ethyl propionylacetate | 7.28 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | piperidine | 0.20 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.62 ml | C(C)(=O)O | C2H4O2
reactant | benzene | 106 ml | C1=CC=CC=C1 | C6H6
product | diethyl 2-ethyl-4-[2-(4-chlorobutoxy)-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 13.13 g | C(C)C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCCl)C(=O)OCC)C | C24H31ClN2O7
